US05362902
cis-3-Methyl-4-styryl-2-azetidinone (Methodology of D. J. Hart et al., J. Org. Chem., 1983, 48, 289)
To a stirred solution of diisopropylamine (1.19 g, 11.9 mmol) in dry tetrahydrofuran (20 ml), at -40° C. under dry nitrogen was added a solution of n-butyllithium in hexane (2.5M; 4.76 ml, 11.9 mmol). The resulting solution was stirred for 0.5 hours, whilst being allowed to warm to room temperature, then cooled to -70° C. before dropwise addition of a solution of ethyl propanoate (1.19 ml, 10 mmol) in dry tetrahydrofuran (20 ml), at such a rate that the temperature did not exceed -65° C. After a further 10 minutes, a solution of N-(trimethylsilyl)cinnamaldimine [prepared by the addition of trans cinnamaldehyde (1.32 g, 10 mmol) to a solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran (1M; 10 ml, 10 mmol) under dry nitrogen at room temperature] was added, again maintaining the internal temperature at <65° C., and stirring was continued for 15 minutes at -70° C. before removal of the cooling bath.

reactant | diisopropylamine | 11.9 mmol, 1.19 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 11.9 mmol, 2.5M, 4.76 ml | CCCCCC | C6H14
reactant | ethyl propanoate | 10 mmol, 1.19 ml | C(CC)(=O)OCC | C5H10O2
reactant | trans cinnamaldehyde | 10 mmol, 1.32 g | C(\C=C\C1=CC=CC=C1)=O | C9H8O
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mmol, 1M, 10 ml | O1CCCC1 | C4H8O
product | cis-3-Methyl-4-styryl-2-azetidinone | C[C@@H]1C(N[C@@H]1C=CC1=CC=CC=C1)=O | C12H13NO
